US07572820B2
A. Ethyl 4-chloro-5-hydroxy-1-(2,2,2-trifluoroethyl)-1H-indole-2-carboxylate
To a solution of ethyl 5-hydroxy-1-(2,2,2-trifluoroethyl)-1H-indole-2-carboxylate (0.7 g, 2.44 mmol) in toluene (30 mL) was added tert-butyl amine (0.014 g, 0.2 mmol) and the mixture was set in an oil bath preheated at 70° C. After 1 min, a solution of sulfuryl chloride (0.37 g, 2.49 mmol) in toluene (1 mL) was added. The reaction was followed by TLC (60% CH2Cl2-hexanes) and additional reagents were added accordingly. After 30 min, more tert-butylamine (0.014 g, 0.2 mmol) and sulfuryl chloride (0.06 g, 0.37 mmol) were added. After another 30 min additional tert-butylamine (0.014 g, 0.2 mmol) and sulfuryl chloride (0.019 g, 0.12 mmol) were added and heating was continued for 30 min. Upon cooling, the mixture was partitioned between EtOAc and 0.2N HCl. The organic phase was washed with 0.2N HCl and sat'd brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (10-80% CH2Cl2-hexanes gradient) to afford the title compound (0.72 g, 92% yield, 95% purity): MS (ES) m/z 322 (M+1).

reactant | ethyl 5-hydroxy-1-(2,2,2-trifluoroethyl)-1H-indole-2-carboxylate | 2.44 mmol, 0.7 g | OC=1C=C2C=C(N(C2=CC1)CC(F)(F)F)C(=O)OCC | C13H12F3NO3
reactant | sulfuryl chloride | 2.49 mmol, 0.37 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sulfuryl chloride | 0.37 mmol, 0.06 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tert-butyl amine | 0.2 mmol, 0.014 g | C(C)(C)(C)N | C4H11N
catalyst | tert-butylamine | 0.2 mmol, 0.014 g | C(C)(C)(C)N | C4H11N
catalyst | tert-butylamine | 0.2 mmol, 0.014 g | C(C)(C)(C)N | C4H11N
catalyst | sulfuryl chloride | 0.12 mmol, 0.019 g | S(=O)(=O)(Cl)Cl | Cl2O2S
product | Ethyl 4-chloro-5-hydroxy-1-(2,2,2-trifluoroethyl)-1H-indole-2-carboxylate | 0.72 g, 92% yield | ClC1=C2C=C(N(C2=CC=C1O)CC(F)(F)F)C(=O)OCC | C13H11ClF3NO3
